US04777252
(B) [2-Oxo-3-(trimethylsilyl)-1-imidazolidinyl]carbamic acid, 1,1-dimethylethyl ester
While cooling 10.55 g (97.1 mmol) of chlorotrimethylsilane was dropped into a solution of 19.55 g (97.1 mmol) of (2-oxo-1-imidazolidinyl)carbamic acid, 1,1-dimethylethyl ester and 9.83 g (97.1 mmol) of triethylamine in 900 ml of absolute ethyl acetate. After stirring overnight, the salt was filtered off and the filtrate evaporated in vacuo to yield 24.18 g of the title compound; melting point 132.1° C.

reactant | chlorotrimethylsilane | 97.1 mmol, 10.55 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | (2-oxo-1-imidazolidinyl)carbamic acid, 1,1-dimethylethyl ester | 97.1 mmol, 19.55 g | O=C1N(CCN1)NC(OC(C)(C)C)=O | C8H15N3O3
reactant | triethylamine | 97.1 mmol, 9.83 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 900 ml | C(C)(=O)OCC | C4H8O2
product | [2-Oxo-3-(trimethylsilyl)-1-imidazolidinyl]carbamic acid, 1,1-dimethylethyl ester | 24.18 g | O=C1N(CCN1[Si](C)(C)C)NC(OC(C)(C)C)=O | C11H23N3O3Si
